US07312233B2
5-amino-3-methylisoquinoline
A mixture of 3-methyl-5-nitroisoquinoline (1.3 g, 0.0069 mol—prepared according to the procedure in WO 2004/024710), 10% Pd—C (100 mg) and MeOH (100 mL) was stirred under an atmosphere of hydrogen (1 atm) at rt for 2 h. The mixture was filtered and the filtrate was concentrated under vacuum to give a light yellow solid (1.1 g, 100%). LC-MS: 0.64 min, 159.1 (M+1).

reactant | 3-methyl-5-nitroisoquinoline | CC=1N=CC2=CC=CC(=C2C1)[N+](=O)[O-] | C10H8N2O2
catalyst | Pd—C | 100 mg | [Pd] | Pd
solvent | MeOH | 100 mL | CO | CH4O
product | 5-amino-3-methylisoquinoline | 1.1 g, 100% | NC1=C2C=C(N=CC2=CC=C1)C | C10H10N2
